US07417169B2
A solution of 4-methoxyphenylboronic acid (0.013 g) in ethanol (0.06 mL), an aqueous solution (0.10 mL) of cesium fluoride (0.019 g) and a solution of tetrakis(triphenylphosphine)palladium (0.003 g) in 1,4-dioxane (0.10 mL) were added successively to a solution of N-[5-{(R)-2-[2-(4-bromophenoxy)-ethylamino]-1-hydroxyethyl}-2-(2-trimethylsilylethoxymethoxy)phenyl]-N-(2-trimethylsilylethoxymethoxy)methanesulfonamide (0.03 g) in 1,4-dioxane (0.20 mL), and the mixture was stirred at 100° C. for 12 hrs. After being cooled to room temperature, the reaction mixture was diluted with tetrahydrofuran, and purified by SCX ion exchange column chromatography (Varian Bond Elut 500 mg, preconditioning: tetrahydrofuran, washing solvent: tetrahydrofuran, eluent: 2 mol/L ammonia in methanol). The solvent was evaporated under reduced pressure to afford N-[5-{(R)-1-hydroxy-2-[2-(4′-methoxybiphenyl-4-yloxy)ethylamino]ethyl}-2-(2-trimethylsilylethoxymethoxy)phenyl]-N-(2-trimethylsilylethoxymethyl)methanesulfonamide.

reactant | 4-methoxyphenylboronic acid | 0.013 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | cesium fluoride | 0.10 mL, 0.019 g | [F-].[Cs+]
reactant | N-[5-{(R)-2-[2-(4-bromophenoxy)-ethylamino]-1-hydroxyethyl}-2-(2-trimethylsilylethoxymethoxy)phenyl]-N-(2-trimethylsilylethoxymethoxy)methanesulfonamide | 0.03 g | BrC1=CC=C(OCCNC[C@H](O)C=2C=CC(=C(C2)N(S(=O)(=O)C)OCOCC[Si](C)(C)C)OCOCC[Si](C)(C)C)C=C1 | C29H49BrN2O8SSi2
solvent | ethanol | 0.06 mL | C(C)O | C2H6O
solvent | 1,4-dioxane | 0.10 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 0.20 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.003 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[5-{(R)-1-hydroxy-2-[2-(4′-methoxybiphenyl-4-yloxy)ethylamino]ethyl}-2-(2-trimethylsilylethoxymethoxy)phenyl]-N-(2-trimethylsilylethoxymethyl)methanesulfonamide | O[C@@H](CNCCOC1=CC=C(C=C1)C1=CC=C(C=C1)OC)C=1C=CC(=C(C1)N(S(=O)(=O)C)COCC[Si](C)(C)C)OCOCC[Si](C)(C)C | C36H56N2O8SSi2
